* F:\Cursos\Electronics\SpiceSimulations\OpAmp\IntegradorSquare.asc
R1 N001 N003 10k
R2 N002 N001 10meg
V1 VCC 0 15
V2 VEE 0 -15
V0 N003 0 PULSE(-50m 50m 5m 1u 1u 5m 10m 4)
XU1 0 N001 VCC VEE N002 LM358
C1 N002 N001 10n
.tran 0 50m 0 1u uic
.lib LM358.lib
.backanno
.end
